US06949542B2
(2-{3-[3-(2-Cyclopropyl-6-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J8) (240 mg, 0.75 mmol) and 3-[3-(2-cyclopropyl-6-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K36) (264 mg, 0.75 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (282 mg, 63%).

reactant | (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 240 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-[3-(2-cyclopropyl-6-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 264 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C1CC1)=O | C22H25NO3
product | (2-{3-[3-(2-Cyclopropyl-6-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C1CC1)=O)=O | C32H34F3N3O5
